US07906645B2
Methyl 4-{(3S)-3-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)methyl]piperidin-1-yl}-4-oxobutanoate
To a solution of N-(3,4-dichlorophenyl)-4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxamide (200 mg), N,N-di-isopropylethylamine (0.19 mL) and monomethyl succinate (79 mg) in dimethylformamide (5 mL) was added O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-Tetramethyluronium Hexafluoro-Phosphate. The solution was stirred at room temperature overnight and then loaded directly onto an SCX-2 column and eluted with methanol then 7M NH3 in methanol. The basic fraction was concentrated at reduced pressure and the residue was purified by silica column chromatography, eluting with a gradient of 0 to 10% methanol in dichloromethane to give the title compound as a white foam (252 mg, 96%).

reactant | N-(3,4-dichlorophenyl)-4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxamide | 200 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C[C@H]1CNCCC1 | C17H24Cl2N4O
reactant | N,N-di-isopropylethylamine | 0.19 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | monomethyl succinate | 79 mg | C(CCC(=O)[O-])(=O)OC
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-Tetramethyluronium Hexafluoro-Phosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Methyl 4-{(3S)-3-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)methyl]piperidin-1-yl}-4-oxobutanoate | 252 mg, 96% | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C[C@H]1CN(CCC1)C(CCC(=O)OC)=O | C22H30Cl2N4O4
